US04420615
B. Ethyl 2-(2-Dimethylaminoethylamino)-4,6-dimethylnicotinate
A solution of crude ethyl 3-(2-dimethylamino-ethylamino)-3-iminopropionate (15.3 g, 50 mmol) and pentane-2,4-dione (7.7 ml, 75 mmol) in dry benzene (80 ml) is refluxed for 18 hours. This solution is dried over anhydrous sodium sulfate and evaporated to give 18.4 g of crude title B product.

reactant | ethyl 3-(2-dimethylamino-ethylamino)-3-iminopropionate | 50 mmol, 15.3 g | CN(CCNC(CC(=O)OCC)=N)C | C9H19N3O2
reactant | pentane-2,4-dione | 75 mmol, 7.7 ml | CC(CC(C)=O)=O | C5H8O2
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | Ethyl 2-(2-Dimethylaminoethylamino)-4,6-dimethylnicotinate | CN(CCNC1=C(C(=O)OCC)C(=CC(=N1)C)C)C | C14H23N3O2
